### PR TITLE
feat(RepresentationTheory/GroupCohomology/LongExactSequence): specialise LES API to group cohomology

### PR DESCRIPTION
**Pull request by 101damnations**
Given a commutative ring `k` and a group `G`, this PR shows that a short exact sequence of `k`-linear `G`-representations 
`0 ⟶ X₁ ⟶ X₂ ⟶ X₃ ⟶ 0` induces a short exact sequence of complexes of inhomogeneous cochains 
`0 ⟶ C(X₁) ⟶ C(X₂) ⟶ C(X₃) ⟶ 0`, where `Hⁿ(C(Xᵢ))` is the `n`th group cohomology of `Xᵢ`.
This allows us to specialize API about long exact sequences to group cohomology.

---

- [x] depends on: #21652 
- [x] depends on: #21739 
- [x] depends on: #21756
- [x] depends on: #21758 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/GroupCohomology/LongExactSequence.lean [hunk 1]
```diff
@@ -0,0 +1,98 @@
...
+
+lemma map_cochainsFunctor_shortExact :
+    ShortExact (X.map (cochainsFunctor k G)) :=
+  HomologicalComplex.shortExact_of_degreewise_shortExact _ fun i => {
+    exact := by
+      have : LinearMap.range X.f.hom.hom = LinearMap.ker X.g.hom.hom :=
+        (hX.exact.map (forget₂ (Rep k G) (ModuleCat k))).moduleCat_range_eq_ker
+      simp_all [moduleCat_exact_iff_range_eq_ker, LinearMap.range_compLeft, LinearMap.ker_compLeft]
+    mono_f := letI := hX.2; cochainsMap_id_f_map_mono X.f i
+    epi_g := letI := hX.3; cochainsMap_id_f_map_epi X.g i }
```
Comment (joelriou) [inline Mathlib/RepresentationTheory/GroupCohomology/LongExactSequence.lean:44]: Instead of `.2/3`, it would better to use `mono_f` and`epi_g`.

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 2]
```diff
@@ -147,6 +147,22 @@ lemma toCycles_moduleCatCyclesIso_hom :
...
   rfl
 
+theorem mapCyclesIso_trans_forget₂_moduleCatCyclesIso (M : ShortComplex (ModuleCat R)) :
+    (M.mapCyclesIso (forget₂ (ModuleCat R) Ab)) ≪≫
+      (forget₂ (ModuleCat R) Ab).mapIso M.moduleCatCyclesIso = ShortComplex.abCyclesIso _ := by
+  refine Iso.ext <| (Iso.inv_eq_inv _ _).1 <|
+    (cancel_mono (M.map (forget₂ (ModuleCat R) Ab)).iCycles).1 ?_
+  simpa only [Iso.trans_inv, Functor.mapIso_inv, ← Functor.map_comp, Category.assoc, mapCyclesIso,
+    LeftHomologyData.cyclesIso_inv_comp_iCycles, abCyclesIso]
+    using congr((forget₂ (ModuleCat R) Ab).map $(moduleCatCyclesIso_inv_iCycles _))
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean:157]: The following looks more readable to me:
```suggestion
theorem mapCyclesIso_trans_forget₂_moduleCatCyclesIso (M : ShortComplex (ModuleCat R)) :
    (M.mapCyclesIso (forget₂ (ModuleCat R) Ab)) ≪≫
      (forget₂ (ModuleCat R) Ab).mapIso M.moduleCatCyclesIso = ShortComplex.abCyclesIso _ := by
  ext : 1
  rw [← Iso.inv_eq_inv, ← cancel_mono (M.map (forget₂ (ModuleCat R) Ab)).iCycles]
  simpa only [Iso.trans_inv, Functor.mapIso_inv, ← Functor.map_comp, Category.assoc, mapCyclesIso,
    LeftHomologyData.cyclesIso_inv_comp_iCycles, abCyclesIso]
    using ((forget₂ (ModuleCat R) Ab).congr_map (moduleCatCyclesIso_inv_iCycles _))
```
I think the lemmas for `inv` and `hom` of the composition should be stated separately (and the `Iso.trans` version deduced from the `inv` lemma).

**Comment by kbuzzard** [comment]
(update: there is a plan to refactor this PR, it is still actively being worked on but there are some preliminary PRs which need to be made first; the material here needs a slight rethink to make sure that it plays well with Tate cohomology)

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by 101damnations** [comment]
Closing this in favour of #25311.
